US08735424B2
A solution of (S)-tert-butyl 1-(6-(6-oxo-1,6-dihydropyrimidin-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate (1.0 equiv.), diisopropylethylamine (2.0 equiv.), and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.5 equiv.) in CH2Cl2 (0.13 M) was submitted to 105° C. for 3×20 min in microwave, concentrated and purified by silica gel chromatography (80% EtOAc/hexanes eluant) to yield (S)-2-(4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)quinolin-6-yl)pyrimidin-4-yl trifluoromethanesulfonate (50%). LC/MS=554.1 (M+H), LC=3.62 min.

reactant | (S)-tert-butyl 1-(6-(6-oxo-1,6-dihydropyrimidin-2-yl)quinolin-4-yl)piperidin-3-ylcarbamate | 1.0 equiv. | O=C1C=CN=C(N1)C=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C23H27N5O3
reactant | diisopropylethylamine | 2.0 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.5 equiv. | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 0.13 M | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-(3-(tert-butoxycarbonylamino)piperidin-1-yl)quinolin-6-yl)pyrimidin-4-yl trifluoromethanesulfonate | 50% | FC(S(=O)(=O)OC1=NC(=NC=C1)C=1C=C2C(=CC=NC2=CC1)N1C[C@H](CCC1)NC(=O)OC(C)(C)C)(F)F | C24H26F3N5O5S
